US06521643B1
To a suspension of 3-(3-tert-butyldimethylsilyloxypyridin-2-yl)-aniline (303 mg), N,N′-bis(tert-butoxycarbonyl)thiourea (335 mg) and diisopropylethylamine (0.405 ml) in dichloromethane (10 ml) was added 1-methyl-2-chloropyridinium iodide (335 mg), and the mixture was stirred for 18 hours. The mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel, 35 g, 20% ethyl acetate in n-hexane) to give N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-tert-butyldimethylsilyloxypyridin-2-yl)phenyl)guanidine (486 mg).

reactant | 3-(3-tert-butyldimethylsilyloxypyridin-2-yl)-aniline | 303 mg | [Si](C)(C)(C(C)(C)C)OC=1C(=NC=CC1)C=1C=C(N)C=CC1 | C17H24N2OSi
reactant | N,N′-bis(tert-butoxycarbonyl)thiourea | 335 mg | C(C)(C)(C)OC(=O)NC(=S)NC(=O)OC(C)(C)C | C11H20N2O4S
reactant | diisopropylethylamine | 0.405 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-chloropyridinium iodide | 335 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-tert-butyldimethylsilyloxypyridin-2-yl)phenyl)guanidine | 486 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC=C1O[Si](C)(C)C(C)(C)C)NC(=O)OC(C)(C)C | C28H42N4O5Si
